US04509970
A mixture of methyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate (4.7 mmol) and phosphorus pentasulfide (1.2 mmol) is heated to 150°-160° under nitrogen for 3-4 hours. After cooling, the residue is purified by preparative thin-layer chromatography (on silica gel, eluting with 20% ethyl acetate/hexane) to give O-methyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinothioate.

reactant | methyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate | 4.7 mmol | C(C)P(OC)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C16H14ClF3NO5P
reactant | phosphorus pentasulfide | 1.2 mmol | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | O-methyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinothioate | C(C)P(OC)(=S)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C16H14ClF3NO4PS
